US08633173B2
{8-[5-Chloro-(2,2-difluoro-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-(2,3,4,5-tetrahydro-1H-3-benzazepin-7yl)-amine was prepared from 7-{8-[5-chloro-2-(2,2-difluoro-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino}-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester (0.117 g, 205 mmol) and trifluoroacetic acid (0.5 mL) in a manner analogous to Example 312 to give product (0.045 g, 47%). MP=102-105° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.52 (s, 1H), 8.78 (d, 1H), 7.80 (s, 1H), 7.65 (d, 1H), 7.50 (d, 1H), 7.40 (m, 2H), 7.30 (d, 1H), 7.05 (t, 1H), 7.00 (d, 1H), 6.25 (br m, 1H), 4.35 (m, 2H), 3.10 (br m, 1H), 2.79 (br m, 8H). MS=470 (MH)+.

reactant | 7-{8-[5-chloro-2-(2,2-difluoro-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino}-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester | 205 mmol, 0.117 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)NC2=NN1C(C(=CC=C1)C1=C(C=CC(=C1)Cl)OCC(F)F)=N2 | C29H30ClF2N5O3
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | {8-[5-Chloro-(2,2-difluoro-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-(2,3,4,5-tetrahydro-1H-3-benzazepin-7yl)-amine | ClC=1C=CC(=C(C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC1=C(CCNCC1)C=C2)OCC(F)F | C24H22ClF2N5O
